US07423159B2
To a mixture of 5-(4-fluorophenyl)-1-methyl-1H-pyrazole-4-carbaldehyde (3.00 g), malonic acid (1.99 g) and bis(2-methoxyethyl) ether (9 mL) was added dropwise piperidine (1.89 mL) over about 10 min. The mixture was stirred at 90-95° C. for 1 hr. and further at 105-110° C. for 4 hrs. After cooling to 25° C., toluene (12 mL) and 1N aqueous sodium hydroxide solution (15 mL) were added and the mixture was stirred. The aqueous layer was separated and the organic layer was extracted with 1N aqueous sodium hydroxide solution (6 mL). The aqueous layers were combined and washed with toluene. The layers were adjusted to pH 3.5-4.0 with 2N hydrochloric acid at 20-30° C. and water (9 mL) was added dropwise. After stirring at 25° C. for 1 hr., the precipitated crystals were collected by filtration and washed with 20% ethanol to give (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]acrylic acid (3.24 g, yield 90%).

reactant | 5-(4-fluorophenyl)-1-methyl-1H-pyrazole-4-carbaldehyde | 3.00 g | FC1=CC=C(C=C1)C1=C(C=NN1C)C=O | C11H9FN2O
reactant | malonic acid | 1.99 g | C(CC(=O)O)(=O)O | C3H4O4
reactant | piperidine | 1.89 mL | N1CCCCC1 | C5H11N
reactant | sodium hydroxide | 1N, 15 mL | [OH-].[Na+]
solvent | toluene | 12 mL | C1(=CC=CC=C1)C | C7H8
solvent | bis(2-methoxyethyl) ether | 9 mL | COCCOCCOC | C6H14O3
product | (2E)-3-[5-(4-fluorophenyl)-1-methyl-1H-pyrazol-4-yl]acrylic acid | 3.24 g, yield 90% | FC1=CC=C(C=C1)C1=C(C=NN1C)/C=C/C(=O)O | C13H11FN2O2
